US04774235
A mixture of bis(dineophyl-orthotrifluoromethylphenyltin)oxide (6.0 g, 5.6 mmol) prepared in Example 6, thiophenol (1.2 g, 11.2 mmol) and toluene (40 g) was treated with the procedure described in Example 7. The product was recrystallized from n-hexane to obtain 5.2 g of dineophylorthotrifluoromethylphenyltin phenylsulfide as a white solid.

reactant | thiophenol | 11.2 mmol, 1.2 g | C1(=CC=CC=C1)S | C6H6S
solvent | toluene | 40 g | C1(=CC=CC=C1)C | C7H8
product | phenylsulfide | C1(=CC=CC=C1)SC1=CC=CC=C1 | C12H10S
